US07141596B2
Step 1. 1-(2-Biphenyl-4-yl-1-phenyl-ethyl)-1H-benzotriazole (4.26-A)
A solution of 1-benzyl-1H-1,2,3-benzotriazole (750 mg, 3.6 mmol) in tetrahydrofuran (36 mL) was cooled to −78° C. and treated with n-butyllithium (2.8 mL, 1.6 M in hexanes) dropwise. The reaction mixture was stirred at −78° C. for 10 min and 4-bromomethyl-biphenyl (1.0 g, 4.1 mmol) in tetrahydrofuran (4 mL) was added dropwise. The reaction mixture was stirred at −78° C. for 1 h, quenched with sat. ammonium chloride (100 mL), and extracted with ethyl acetate (150 mL). The organic layer was separated and washed with brine (50 mL), dried with sodium sulfate, filtered, and concentrated to a white solid. This material was triturated with diethyl ether (2×50 mL) to yield the desired product (1.12 g, 83%). LCMS found for C26H22N3 (M+H)+: m/z=376.

reactant | 1-benzyl-1H-1,2,3-benzotriazole | 3.6 mmol, 750 mg | C(C1=CC=CC=C1)N1N=NC2=C1C=CC=C2 | C13H11N3
reactant | n-butyllithium | 1.6 M, 2.8 mL | C(CCC)[Li]
reactant | 4-bromomethyl-biphenyl | 4.1 mmol, 1.0 g | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-(2-Biphenyl-4-yl-1-phenyl-ethyl)-1H-benzotriazole | 1.12 g, 83% | C1(=CC=C(C=C1)CC(C1=CC=CC=C1)N1N=NC2=C1C=CC=C2)C2=CC=CC=C2 | C26H21N3
